US06340384B1
(E) Copper Ammonia/Dodecyldimethylamine Oxide Treating Solution for Insect Control in Wood
4.8 g technical (not purified) chlorpyrifos solid was dissolved in 160 grams of Barlox® 12 (48 g of dodecyldimethylamine oxide). This solution was mixed with 480 g of ammoniated copper carbonate concentrate prepared as in Example 1 (solution (1)) to yield a concentrated solution. The concentrated solution was diluted with 7360 grams of deionized water and the resulting solution containing 0.6% copper oxide, 0.6% dodecyldimethylamine oxide, and 0.06% chlorpyrifos was used to treat wood in a pressure cylinder.

reactant | copper oxide | [Cu]=O
reactant | dodecyldimethylamine oxide | C(CCCCCCCCCCC)[N+](C)(C)[O-] | C14H31NO
reactant | chlorpyrifos | CCOP(=S)(OCC)OC1=C(C=C(C(=N1)Cl)Cl)Cl | C9H11Cl3NO3PS
solvent | water | 7360 grams | O | H2O
product | Copper Ammonia Dodecyldimethylamine Oxide | N.[Cu].C(CCCCCCCCCCC)[N+](C)(C)[O-] | InChI=1S/C14H31NO.Cu.H3N/c1-4-5-6-7-8-9-10-11-12-13-14-15(2,3)16;;/h4-14H2,1-3H3;;1H3
